US09145392B2
Methyl 4-(4-amino-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)benzoate (“88”)
The title compound was prepared in an analogous manner as 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine using methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate instead of 4-fluorophenyl boronic acid. LC-MS: (M+1=612, obsd.=612).

reactant | 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(4-fluorophenyl)pyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)F)C | C29H30F5N7
reactant | methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC1(OB(OC1(C)C)C1=CC=C(C(=O)OC)C=C1)C | C14H19BO4
product | Methyl 4-(4-amino-6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)pyrimidin-5-yl)benzoate | NC1=NC=NC(=C1C1=CC=C(C(=O)OC)C=C1)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C | C31H33F4N7O2
